US06337331B1
3-(2-Fluorophenyl)-6-phenyl-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one (95 mg, 0.31 mmol), triphenylphosphine (203 mg, 0.78 mmol) and (2-ethyl-2H-1,2,4-triazol-3-yl)methanol (110 mg, 0.78 mmol) were suspended in dry tetrahydrofuran (1,5 ml). Diethyl azodicarboxylate (123 μl, 0.78 mmol) was added and a solution resulted immediately. The reaction was stirred at room temperature for 16 hours before purification by preparative tlc (40% EtOAc/hexanes) to give a white solid which was recrystallised from ethyl acetate/hexanes and triturated with diethyl ether to afford 5-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-3-(2-fluorophenyl)-6-phenyl-1,2,3-triazolo[1,5-α]pyrimidine (67 mg, 52%) as white plates, m.p. 147-148° C.; δH (400 MHz, CDCl3) 1.22 (3H, t, J=7.3 Hz, NCH2CHH3), 4.13 (2H, q, J=7.3 Hz, NCH2CH3), 5.70 (2H, s, OCH2), 7.24 (1H, t, J=29.3 Hz, ArH), 7.31 (1H, t, J=7.5 Hz. ArH), 7.41-7.48 (4H, m, ArH, 7.54-7.56 (2H, m, ArH), 7.89 (1H, s, triazole CH), 8.02 (1H, td, J=7.5 and 1.7 Hz, ArH), 8.79 (1H, s, pyrimidine CH); m/z (ES+) 416 (M+H+).

reactant | 3-(2-Fluorophenyl)-6-phenyl-4H-1,2,3-triazolo[1,5-α]pyrimidin-5-one | 0.31 mmol, 95 mg | FC1=C(C=CC=C1)C=1N=NN2C1NC(C(=C2)C2=CC=CC=C2)=O | C17H11FN4O
reactant | triphenylphosphine | 0.78 mmol, 203 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2-ethyl-2H-1,2,4-triazol-3-yl)methanol | 0.78 mmol, 110 mg | C(C)N1N=CN=C1CO | C5H9N3O
reactant | Diethyl azodicarboxylate | 0.78 mmol, 123 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1,5 ml | O1CCCC1 | C4H8O
product | 5-(2-ethyl-2H-1,2,4-triazol-3-ylmethoxy)-3-(2-fluorophenyl)-6-phenyl-1,2,3-triazolo[1,5-α]pyrimidine | 67 mg, 52% | C(C)N1N=CN=C1COC1=NC=2N(C=C1C1=CC=CC=C1)N=NC2C2=C(C=CC=C2)F | C22H18FN7O
